US08202865B2
Step 1: methyl 4-chloro-3-(methylsulfonyl)benzoate
4-chloro-3-(methylsulfonyl)benzoic acid (Enamine, 500 mg; 2.13 mmol; 1 eq.) was dissolved in MeOH (10 mL) The solution was cooled down to 0° C. Thionyl chloride (0.62 mL; 8.52 mmol; 4 eq.) was added dropwise.

reactant | 4-chloro-3-(methylsulfonyl)benzoic acid | 2.13 mmol, 500 mg, 1 eq. | ClC1=C(C=C(C(=O)O)C=C1)S(=O)(=O)C | C8H7ClO4S
reactant | Thionyl chloride | 8.52 mmol, 0.62 mL, 4 eq. | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 10 mL | CO | CH4O
product | methyl 4-chloro-3-(methylsulfonyl)benzoate | ClC1=C(C=C(C(=O)OC)C=C1)S(=O)(=O)C | C9H9ClO4S
